US08242124B2
To a suspension of 2,6-naphthyridin-1(2H)-one (2.04 g, 13.96 mmol) in acetonitrile (35 mL) was added benzylbromide (1.992 mL, 16.75 mmol). The mixture was heated to reflux. After 2 h the mixture was cooled to rt. The solvent was removed under reduced pressure and the residue was dissolved in EtOH (30 mL) and cooled to 0° C. Sodium borohydride (2.64 g, 69.8 mmol) was added portionwise over 30 min and the mixture was warmed to rt as the ice bath melted. After stirring the reaction mixture overnight at rt, the mixture was carefully acidified to pH=3 with 1N HCl and was stirred for 30 minutes at rt. The solution was concentrated under reduced pressure. The residue was neutralized with sat. aq. NaHCO3 and was extracted with dichloromethane (3×150 mL). The organic solution was concentrated under reduced pressure, and the residue was purified by BIOTAGE® flash chromatography using a 0-10% MeOH in dichloromethane gradient. The fractions containing the expected product were combined and concentrated under reduced pressure to give 6-benzyl-5,6,7,8-tetrahydro-2,6-naphthyridin-1(2H)-one (2.56 g, 10.65 mmol, 76% yield) as a light-yellow solid. LC/MS: m/z 241.08 (M+H)+, 1.362 min (method 1). 1H NMR (500 MHz, DMSO-d6) δ ppm 11.29 (br. s., 1H) 7.31-7.37 (m, 4H) 7.24-7.30 (m, 1H) 7.12 (d, J=6.41 Hz, 1H) 5.89 (d, J=6.71 Hz, 1H) 3.63 (s, 2H) 3.32 (br. s., 2H) 2.62 (t, J=5.80 Hz, 2H) 2.40 (t, J=5.04 Hz, 2H).

reactant | 2,6-naphthyridin-1(2H)-one | 13.96 mmol, 2.04 g | C1(NC=CC2=CN=CC=C12)=O | C8H6N2O
reactant | benzylbromide | 16.75 mmol, 1.992 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Sodium borohydride | 69.8 mmol, 2.64 g | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | 6-benzyl-5,6,7,8-tetrahydro-2,6-naphthyridin-1(2H)-one | 10.65 mmol, 2.56 g, 76% yield | C(C1=CC=CC=C1)N1CC=2C=CNC(C2CC1)=O | C15H16N2O
